US06794400B2
4-(Bicyclo[2.2.1]hept-5-en-2-yl)-1-(4-pyrrolidinobenzylidene)thiosemicarbazide
The title compound was prepared from a mixture of N1-bicyclo[2.2.1]hept-5-en-2-ylhydrazine-1-carbothioamide (100 mg, 0.6 mmol) and 4-pyrrolidinobenzaldehyde (126 mg, 0.72 mmol) similar to Example 3 and isolated as a white solid (60 mg, 29%). 1H NMR (CDCl3): 9.01 (s, 1H), 7.65 (s, 1H), 7.50-7.26 (m, 2H), 6.52 (d, J=8.8 Hz, 2H), 6.16 (ddd, J=8.1, 5.1, 2.7 Hz, 2H), 4.29 (t, J=8.1 Hz, 1H), 3.36-3.32 (m, 4H), 3.04 (s, 1H), 2.95 (s, 1H), 2.07-1.99 (m, 4H ), 1.87 (ddd, J=7.6, 7.0, 2.7 Hz, 1H), 1.63 (m, 1H), 1.53-1.38 (m, 2H).

reactant | N1-bicyclo[2.2.1]hept-5-en-2-ylhydrazine-1-carbothioamide | 0.6 mmol, 100 mg | C12C(CC(C=C1)C2)NC(=S)NN | C8H13N3S
reactant | 4-pyrrolidinobenzaldehyde | 0.72 mmol, 126 mg | N1(CCCC1)C1=CC=C(C=O)C=C1 | C11H13NO
product | 4-(Bicyclo[2.2.1]hept-5-en-2-yl)-1-(4-pyrrolidinobenzylidene)thiosemicarbazide | C12C(CC(C=C1)C2)NC(NN=CC2=CC=C(C=C2)N2CCCC2)=S | C19H24N4S
